US06482907B1
Synthesis of Methyl 2,2-Dimethyl-4-pentenoate
2,2-Dimethyl-4-pentenoic acid (15 g, 0.117 mol) was mixed with 70 mL anhydrous methanol and 50 mL toluene. Concentrated sulfuric acid (0.1 mL ) was added. The solution was refluxed for 24 h. Solvents were then removed. The crude product was distilled under reduced pressure to gave 6 g pure product. 1H NMR (CDCl3): δ 1.28 (s, 6H, —CMe2—); 2.37 (d, 2H, CH2═CHCH2—); 3.77 (s, 3H, —CO2Me); 5.15 (m, 2H, CH2═CH—); 5.84 (m, 1H, CH2═CH—)

reactant | 2,2-Dimethyl-4-pentenoic acid | 0.117 mol, 15 g | CC(C(=O)O)(CC=C)C | C7H12O2
reactant | methanol | 70 mL | CO | CH4O
reactant | sulfuric acid | 0.1 mL | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 2,2-Dimethyl-4-pentenoate | 6 g | CC(C(=O)OC)(CC=C)C | C8H14O2
